US06265426B1
4-Carboxymethoxy-3-fluoro-benzoic acid methyl ester
A solution of 4-tert-butoxycarbonylmethoxy-3-fluoro-benzoic acid methyl ester in CH2Cl2 was treated with trifluoroacetic acid (14.9 ml, 130 mmol, 10.6 eq.) (20 ml) for 3.5 hrs. at r.t. Following evaporation to dryness, the title compound (2.77 g, 99% yield) was obtained as an off-white solid. MS: m/e=228 (M+).

reactant | 4-tert-butoxycarbonylmethoxy-3-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)F)=O | C14H17FO5
reactant | trifluoroacetic acid | 130 mmol, 14.9 ml, 10.6 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Carboxymethoxy-3-fluoro-benzoic acid methyl ester | 2.77 g, 99% yield | COC(C1=CC(=C(C=C1)OCC(=O)O)F)=O | C10H9FO5
